US07262185B2
A solution of 4-aminothiophenol (1.0 g), 3-chloromethyl-1,2,4-oxadiazole (1.0 g) and triethylamine (1.1 ml) in THF (10 ml) was stirred at room temperature for 18 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the obtained residue was separated and purified by column chromatography (ethyl acetate:hexane 1:3→1:2), to give 4-(1,2,4-oxadiazol-3-ylmethylthio)aniline (1.36 g) as pale yellow oil.

reactant | 4-aminothiophenol | 1.0 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | 3-chloromethyl-1,2,4-oxadiazole | 1.0 g | ClCC1=NOC=N1 | C3H3ClN2O
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(1,2,4-oxadiazol-3-ylmethylthio)aniline | 1.36 g | O1N=C(N=C1)CSC1=CC=C(N)C=C1 | C9H9N3OS
